US04675428
To 5 g of 4,4-dimethyl-cyclohexylcarboxylic acid was added an excess of thionyl chloride, and the mixture was heated with stirring for 3 hours. After the reaction, the remaining thionyl chloride was distilled off in a vacuum, 10 ml of benzene was added to the residue and the mixture was distilled in a vacuum, giving oily 4,4-dimethylcyclohexylcarbonyl chloride.

reactant | 4,4-dimethyl-cyclohexylcarboxylic acid | 5 g | CC1(CCC(CC1)C(=O)O)C | C9H16O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4,4-dimethylcyclohexylcarbonyl chloride | CC1(CCC(CC1)C(=O)Cl)C | C9H15ClO
